US09107916B2
B. 2-[5-[(4-iodo-2-methoxyphenyl)methoxy]pyrazol-1-yl]pyridine-4-carbonitrile
The title compound was prepared from 2-(5-hydroxy-1H-pyrazol-1-yl)pyridine-4-carbonitrile and (4-iodo-2-methoxyphenyl)methanol according to the procedure for the preparation of Example 39, part C. 1H NMR (400 MHz, CDCl3): δ 3.88 (3H, s), 5.20 (2H, s), 5.77 (1H, d, J=2.0 Hz), 7.13 (1H, d, J=8.0 Hz), 7.23 (1H, d, J=1.6 Hz), 7.33 (1H, dd, J=1.6 Hz, 8.0 Hz), 7.39 (1H, dd, J=1.2 Hz, 4.8 Hz), 7.57 (1H, d, J=2.0 Hz), 8.05 (1H, t, J=1.2 Hz), 8.70 (1H, d, J=0.8 Hz, 5.2 Hz). [M+H] Calc'd for C17H131 N4O2, 433. Found, 433.

reactant | 2-(5-hydroxy-1H-pyrazol-1-yl)pyridine-4-carbonitrile | OC1=CC=NN1C1=NC=CC(=C1)C#N | C9H6N4O
reactant | (4-iodo-2-methoxyphenyl)methanol | IC1=CC(=C(C=C1)CO)OC | C8H9IO2
product | 2-[5-[(4-iodo-2-methoxyphenyl)methoxy]pyrazol-1-yl]pyridine-4-carbonitrile | IC1=CC(=C(C=C1)COC1=CC=NN1C1=NC=CC(=C1)C#N)OC | C17H13IN4O2
